US06159964
a) Ethyl (6-Methoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)acetate
A solution of 6-methoxy-1,2,3,4-tetrahydroisoquinoline, Sall and Grunewald, J. Med. Chem. 1987, 30, 2208-2216 (1.1 mmol), ethyl chloroacetate (1.17 mmol), and K2CO3 (1.17 mmol) in CH3CN (10 mL) is stirred for 18 h. The mixture is partitioned between EtOAc and H2O. The organic phase is concentrated to an oil, which is purified by chromatography (silica gel, gradient, 20-80% EtOAc/hexane) to afford the title compound.

reactant | 6-methoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCNCC2=CC1 | C10H13NO
reactant | ethyl chloroacetate | 1.17 mmol | ClCC(=O)OCC | C4H7ClO2
reactant | K2CO3 | 1.17 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | Ethyl (6-Methoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)acetate | COC=1C=C2CCN(CC2=CC1)CC(=O)OCC | C14H19NO3
